US09290451B2
a) 5-(Bis(2,2,2-trifluoroethyl)amino)-6-(cyclopropylmethoxy)-pyridine-2-carboxylic acid methyl ester
Under a nitrogen atmosphere, a solution of 5-bromo-6-(cyclopropylmethoxy)-pyridine-2-carboxylic acid methyl ester (Example 114 a, 1 g, 3.5 mmol), bis(2,2,2-trifluoroethyl)amine (1.90 g, 10 mmol), (±)-2,2′-bis(diphenylphosphino)-1,1′-binaphthalene (CAN 98327-87-8, 0.435 g, 1 mmol), tris(dibenzylideneacetone) dipalladium (CAN 51364-51-3, 0.32 g, 0.35 mmol) and cesium carbonate (CAN 534-17-8, 3.4 g, 10 mmol) in toluene (50 mL) was reacted overnight at 110° C. The reaction mixture was concentrated under reduced pressure, dissolved in water, extracted with ethyl acetate (50 mL), the aqueous layer was adjusted to pH 2 with conc. HCl, then extracted with ethyl acetate (3×50 mL), washed with brine (2×50 mL), dried over Na2SO4 and concentrated under reduced pressure. The residue was purified by column chromatography (silica gel, 10 g, 20% ethyl acetate in petroleum ether) to yield the title compound (0.5 g, 29.7%) as a yellow oil; MS: m/e=387.1 [M+H]+.

reactant | 5-bromo-6-(cyclopropylmethoxy)-pyridine-2-carboxylic acid methyl ester | COC(=O)C1=NC(=C(C=C1)Br)OCC1CC1 | C11H12BrNO3
reactant | bis(2,2,2-trifluoroethyl)amine | 10 mmol, 1.90 g | FC(CNCC(F)(F)F)(F)F | C4H5F6N
reactant | (±)-2,2′-bis(diphenylphosphino)-1,1′-binaphthalene | 1 mmol, 0.435 g | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | cesium carbonate | 10 mmol, 3.4 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone) dipalladium | 0.35 mmol, 0.32 g | [Pd].[Pd].C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1
product | 5-(Bis(2,2,2-trifluoroethyl)amino)-6-(cyclopropylmethoxy)-pyridine-2-carboxylic acid methyl ester | 0.5 g, 29.7% | COC(=O)C1=NC(=C(C=C1)N(CC(F)(F)F)CC(F)(F)F)OCC1CC1 | C15H16F6N2O3
